US07696200B2
65% aq. nitric acid solution (1.76 mL, 39 mmol) and fuming nitric acid (3.25 mL, 78 mmol) were added at −10° C. to a solution of 4-hydroxy-3-trifluoromethyl-benzoic acid methyl ester (4.31 g, 19.6 mmol) in acetic acid (54 mL). The ice bath was removed and the solution was stirred at room temperature for 5 h, then partitioned between water and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated to afford 4-hydroxy-3-nitro-5-trifluoromethyl-benzoic acid methyl ester (5.16 g, 99%). Orange solid, MS (ISP)=263.9 (M−H)−.

reactant | nitric acid | 39 mmol, 1.76 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 78 mmol, 3.25 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxy-3-trifluoromethyl-benzoic acid methyl ester | 19.6 mmol, 4.31 g | COC(C1=CC(=C(C=C1)O)C(F)(F)F)=O | C9H7F3O3
solvent | acetic acid | 54 mL | C(C)(=O)O | C2H4O2
product | 4-hydroxy-3-nitro-5-trifluoromethyl-benzoic acid methyl ester | 5.16 g, 99% | COC(C1=CC(=C(C(=C1)C(F)(F)F)O)[N+](=O)[O-])=O | C9H6F3NO5
